US06252082B1
1.4. Methyl 6-methyl-3-nitro-2-oxo-4-[[(trifluoromethyl)sulphonyl]oxy]-1,2-dihydropyridine-1-acetate
17.4 ml of triethylamine are added to 26.9 g (0.11 mol) of methyl 4-hydroxy-6-methyl-3-nitro-2-oxo-1,2-dihydropyridine-1-acetate in suspension in 500 ml of dichloromethane and the mixture is cooled to −70° C. 20 ml (0.12 mol) of trifluoromethanesulphonic anhydride are then added dropwise, the reaction medium is stirred for 1 hour at room temperature and then it is washed successively with 200 ml of water and 100 ml of an ice-cold 1 N hydrochloric acid solution. The organic phase is dried over magnesium sulphate and evaporated to dryness. The residue is purified by chromatography on a silica gel column, eluting with a dichloro-methane:methanol (98:2) mixture and then the product is precipitated from ether.

reactant | triethylamine | 17.4 ml | C(C)N(CC)CC | C6H15N
reactant | methyl 4-hydroxy-6-methyl-3-nitro-2-oxo-1,2-dihydropyridine-1-acetate | 0.11 mol, 26.9 g | OC1=C(C(N(C(=C1)C)CC(=O)OC)=O)[N+](=O)[O-] | C9H10N2O6
reactant | trifluoromethanesulphonic anhydride | 0.12 mol, 20 ml | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
solvent | dichloromethane | 500 ml | ClCCl | CH2Cl2
product | Methyl 6-methyl-3-nitro-2-oxo-4-[[(trifluoromethyl)sulphonyl]oxy]-1,2-dihydropyridine-1-acetate | CC1=CC(=C(C(N1CC(=O)OC)=O)[N+](=O)[O-])OS(=O)(=O)C(F)(F)F | C10H9F3N2O8S
